US05626791
5-(Benzo[1,3]dioxol-5-ylmethoxy)-2-(4-octyloxyphenyl)pyrimidine
By Mitsunobu etherification of 2-(4-octyloxyphenyl)pyrimidin-5-ol using benzo[1,3]dioxol-5-ylmethanol analogously to Example 208.

reactant | 2-(4-octyloxyphenyl)pyrimidin-5-ol | C(CCCCCCC)OC1=CC=C(C=C1)C1=NC=C(C=N1)O | C18H24N2O2
reactant | benzo[1,3]dioxol-5-ylmethanol | O1COC2=C1C=CC(=C2)CO | C8H8O3
product | 5-(Benzo[1,3]dioxol-5-ylmethoxy)-2-(4-octyloxyphenyl)pyrimidine | O1COC2=C1C=CC(=C2)COC=2C=NC(=NC2)C2=CC=C(C=C2)OCCCCCCCC | C26H30N2O4
